US08193237B2
2-(2-Amino-4-nitrophenyl)-2-cyanoacetamide (Reference compound 3-1)
Potassium tert-butoxide (36 g, 0.32 mol) was added to a solution of 2-cyanoacetamide (27 g, 0.32 mol) in anhydrous N,N-dimethylformamide (700 mL), and a solution of 2-fluoro-5-nitroaniline (25 g, 0.16 mol) in anhydrous N,N-dimethylformamide (80 mL) was added dropwise thereto under ice-cooling. After the reaction mixture was stirred at 5° C. for 18 hours, it was poured into a saturated ammonium chloride aqueous solution (1.0 L) under ice-cooling. The whole was extracted with ethyl acetate (1.0 L). The organic layer was washed with water (500 mL), brine (300 mL), and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, toluene (100 mL) and dichloromethane (100 mL) were added to the residue. The precipitated solid was filtered off, and dried under reduced pressure to give the title reference compound (33 g) as a brown solid (yield 94%).

reactant | Potassium tert-butoxide | 0.32 mol, 36 g | CC(C)([O-])C.[K+]
reactant | 2-cyanoacetamide | 0.32 mol, 27 g | C(#N)CC(=O)N | C3H4N2O
reactant | 2-fluoro-5-nitroaniline | 0.16 mol, 25 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | ammonium chloride | 1.0 L | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 700 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 2-(2-Amino-4-nitrophenyl)-2-cyanoacetamide | 33 g, yield 94% | NC1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)N)C#N | C9H8N4O3
